US06825180B2
A mixture of (R)-3-(5-acetoxyhexyl)-1,7-dimethylpyrido[2,3-d]pyrimidine-2,4,5(1H,3H,8H)-trione (100 mg, 0.286 mmol), diethyl ether (0.5 ml) and 3 M aqueous hydrochloric acid solution (5 ml) was stirred at room temperature for 18 hours. After treating with saturated aqueous sodium bicarbonate (20 ml), the mixture was extracted with diethyl ether (2×20 ml). The combined extracts were dried over sodium sulfate, and concentrated under vacuum to afford (R)-1,7-dimethyl-3-(5-hydroxyhexyl)pyrido[2,3-d]pyrimidine-2,4,5(1H,3H,8H)-trione (81 mg, 92% yield) a white powder. 1H NMR (300 MHz, CDCl3) δ 1.17 (d, 3H), 1.30-1.52 (m, 3H), 1.54-1.70 (m, 4H), 2.45 (s, 3H), 3.62 (s, 3H), 3.77 (m, 1H), 4.00 (t, 2H), 6.49 (s, 1H), 12.15 (s, 1H).

reactant | (R)-3-(5-acetoxyhexyl)-1,7-dimethylpyrido[2,3-d]pyrimidine-2,4,5(1H,3H,8H)-trione | 0.286 mmol, 100 mg | C(C)(=O)O[C@@H](CCCCN1C(N(C2=C(C1=O)C(C=C(N2)C)=O)C)=O)C | C17H23N3O5
reactant | hydrochloric acid | 3 M, 5 ml | Cl | ClH
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 0.5 ml | C(C)OCC | C4H10O
product | (R)-1,7-dimethyl-3-(5-hydroxyhexyl)pyrido[2,3-d]pyrimidine-2,4,5(1H,3H,8H)-trione | 81 mg, 92% yield | CN1C(N(C(C2=C1NC(=CC2=O)C)=O)CCCC[C@@H](C)O)=O | C15H21N3O4
